US04788207
In a manner similar to Step B of Example 1, the reaction of 10.0 grams (0.0487 mole) of (4-trifluoromethylphenyl)thiocarboxamide, 125 ml of ethanol, 8.35 grams (0.0490 mole) of bromoacetaldehyde, and 2 ml of concentrated hydrochloric acid produced 5.5 grams of 2-(4-trifluoromethylphenyl)thiazole as a solid.

reactant | (4-trifluoromethylphenyl)thiocarboxamide | 0.0487 mole, 10.0 grams | FC(C1=CC=C(C=C1)C(=S)N)(F)F | C8H6F3NS
reactant | bromoacetaldehyde | 0.0490 mole, 8.35 grams | BrCC=O | C2H3BrO
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | ethanol | 125 ml | C(C)O | C2H6O
product | 2-(4-trifluoromethylphenyl)thiazole | 5.5 grams | FC(C1=CC=C(C=C1)C=1SC=CN1)(F)F | C10H6F3NS
